US05902803
Ethyl 1-[(4-cyano-1-oxoindan-2-yl)]imidazole-2-carboxylate can be obtained in the following way: a mixture of 3.92 g of ethyl imidazole-2-carboxylate and 3.4 g of 2-bromo-4-cyano-1-indanone is heated at 130° C. for 20 minutes, cooled to 20° C. and dissolved in 20 ml of dichloromethane. The mixture is then concentrated to dryness under reduced pressure (15 mm Hg; 2 kPa) at 40° C. The residue thus obtained is purified by flash chromatography on a silica column, under a nitrogen stream at medium pressure (0.5 bar), with a dichloromethane/methanol (95/5 by volume) mixture as eluent. 1.5 g of ethyl 1-[(4-cyano-1-oxoindan-2-yl)]imidazole-2-carboxylate are thus obtained, which product melts at 159° C.

reactant | ethyl imidazole-2-carboxylate | 3.92 g | N1C(=NC=C1)C(=O)OCC | C6H8N2O2
reactant | 2-bromo-4-cyano-1-indanone | 3.4 g | BrC1C(C2=CC=CC(=C2C1)C#N)=O | C10H6BrNO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | ethyl 1-[(4-cyano-1-oxoindan-2-yl)]imidazole-2-carboxylate | 1.5 g | C(#N)C1=C2CC(C(C2=CC=C1)=O)N1C(=NC=C1)C(=O)OCC | C16H13N3O3
